US05585397
1-Piperidinesulfonyl Chloride
A solution of 4 g of sulfuryl chloride in acetronitrile was treated dropwise with 861 mg of piperidine at ambient temperature under an atmosphere of nitrogen. After complete addition, the mixture was refluxed for 18 h, cooled to room temperature and concentrated in vacuo to yield the title product as a red oil. TLC: Rf=0.86, CH2Cl2. (1H)-NMR (CDCl3) consistent with structure.

reactant | sulfuryl chloride | 4 g | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | piperidine | 861 mg | N1CCCCC1 | C5H11N
product | 1-Piperidinesulfonyl Chloride | N1(CCCCC1)S(=O)(=O)Cl | C5H10ClNO2S
